US07576107B2
To a solution of 5-bromo-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfonylpyrazole (2.5 g, 4.8 mmol) in 1,4-dioxane and N,N-dimethylformamide was added 2-methoxyethylamine (0.74 g, 9.7 mmol) and potassium carbonate (1.35 g, 9.7 mmol). The resulting mixture was stirred at 50° C. for 4 hours, left to stand overnight, then poured into a mixture of water and dichloromethane. The organic phase was washed with water, dried (sodium sulfate), evaporated. The crude product was recrystallised from diisopropylether to give 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-(2-methoxyethylamino)4-trifluoromethylsulfonylpyrazole as a white solid (Compound number 1-3, 1.30 g), mp 164° C.

reactant | 5-bromo-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfonylpyrazole | 4.8 mmol, 2.5 g | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F | C12H2BrCl2F6N3O2S
reactant | 2-methoxyethylamine | 9.7 mmol, 0.74 g | COCCN | C3H9NO
reactant | potassium carbonate | 9.7 mmol, 1.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-(2-methoxyethylamino)4-trifluoromethylsulfonylpyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NCCOC)S(=O)(=O)C(F)(F)F)C#N | C15H10Cl2F6N4O3S
